US03969357
1-(3-Pyridylmethyl)-3-(4-nitrophenyl)urea (2.72 g., 0.01 mole) was dissolved in 40 ml. of hot 2-methoxyethanol and filtered to give a clear solution. To this was added a filtered solution of cadmium chloride (1.83 g., 0.01 mole) in 300 ml. of hot methanol. The reaction mixture was cooled to room temperature to give an off-white precipitate, which was filtered off, washed with 2-methoxyethanol and air dried to give 3.5 g. of white-tan solid. It is a 77% yield of 1-(3-pyridylmethyl)-3-(4-nitrophenyl)urea cadmium chloride complex.

reactant | 1-(3-Pyridylmethyl)-3-(4-nitrophenyl)urea | 0.01 mole, 2.72 g | N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H12N4O3
reactant | cadmium chloride | 0.01 mole, 1.83 g | [Cl-].[Cd+2].[Cl-]
solvent | methanol | CO | CH4O
product | 1-(3-pyridylmethyl)-3-(4-nitrophenyl)urea cadmium chloride | 77% yield | [Cl-].[Cd+2].N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-].[Cl-] | InChI=1S/C13H12N4O3.Cd.2ClH/c18-13(15-9-10-2-1-7-14-8-10)16-11-3-5-12(6-4-11)17(19)20;;;/h1-8H,9H2,(H2,15,16,18);;2*1H/q;+2;;/p-2
